US06809097B1
A solution of 4-acetoxy-3-methoxynitrobenzene (8.5 g, 40 mmol) in ethanol (175 ml) containing 10% palladium-on-charcoal catalyst (50% in water, 0.5 g) was stirred under hydrogen at atmospheric pressure for 1.5 hours. The catalyst was removed by filtration and the volatiles were removed by evaporation to give 4-acetoxy-3-methoxyaniline as an oil (6.92 g, 95%).

reactant | 4-acetoxy-3-methoxynitrobenzene | 40 mmol, 8.5 g | C(C)(=O)OC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H9NO5
solvent | ethanol | 175 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 4-acetoxy-3-methoxyaniline | 6.92 g, 95% | C(C)(=O)OC1=C(C=C(N)C=C1)OC | C9H11NO3
